US08580794B2
ethyl 4-(cyclopropylamino)cyclohexanecarboxylate
To a solution of ethyl 4-oxocyclohexanecarboxylate (3.4 g) in dichloromethane (30 mL) was added cyclopropanamine (1.14 g) followed by sodium triacetoxyborohydride (4.24 g). The mixture was stirred overnight. The mixture was diluted with dichloromethane (300 mL) and washed with 2N NaOH, water, brine and dried over Na2SO4. Filtration and evaporation of the solvent gave the title compound.

reactant | ethyl 4-oxocyclohexanecarboxylate | 3.4 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | cyclopropanamine | 1.14 g | C1(CC1)N | C3H7N
reactant | sodium triacetoxyborohydride | 4.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | ethyl 4-(cyclopropylamino)cyclohexanecarboxylate | C1(CC1)NC1CCC(CC1)C(=O)OCC | C12H21NO2
